US04290947
n-Butyllithium (1.81 mmol) is added by syringe to a solution of diisopropylamine (1.81 mmol) in 9 ml of freshly distilled tetrahydrofuran at -78° C. The resulting solution is stirred for 15 min at -78° C. Benzyl acetate (1.81 mmol) is then added dropwise by syringe and the resulting solution is stirred at -78° C. for 20 min. A solution of (3S,4R)-1-(t-butyldimethylsilyl)-3-[(R)-1-(t-butyldimethylsilyloxy)ethyl]-4-(2-oxoethyl)azetidin-2-one (1.64 mmol) in 3 ml of anhydrous tetrahydrofuran is added slowly by syringe. The reaction mixture is stirred at -78° C. an additional 15 min and then quenched by addition of saturated aqueous ammonium chloride solution. Ethyl acetate (50 ml) is added and the organic phase is separated, washed with water (2×10 ml) and brine and dried over magnesium sulfate. Removal of solvents in vacuo gives a white solid which is chromatographed on a short silica gel column (40 % ether in petroleum ether) to yield (3S,4R)-1-(t-butyldimethylsilyl)-3-[(R)-1-(t-butyldimethylsilyloxy)ethyl]-4-(3-benzyloxycarbonyl-2-hydroxypropyl)azetidin-2-one. n.m.r. (CDCl3) δ7.32(s,5), δ5,1(s,2), δ4.0(m,3), δ2,4-3,8(m,4), δ2.0(m,2), δ1.25(overlapping d, 3), δ0.95(s,9), δ0.9(s,9), δ0.3(s,6), δ0.18(s,6).

reactant | n-Butyllithium | 1.81 mmol | C(CCC)[Li]
reactant | diisopropylamine | 1.81 mmol | C(C)(C)NC(C)C | C6H15N
reactant | Benzyl acetate | 1.81 mmol | C(C)(=O)OCC1=CC=CC=C1 | C9H10O2
reactant | (3S,4R)-1-(t-butyldimethylsilyl)-3-[(R)-1-(t-butyldimethylsilyloxy)ethyl]-4-(2-oxoethyl)azetidin-2-one | 1.64 mmol | [Si](C)(C)(C(C)(C)C)N1C([C@@H]([C@H]1CC=O)[C@@H](C)O[Si](C)(C)C(C)(C)C)=O | C19H39NO3Si2
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | (3S,4R)-1-(t-butyldimethylsilyl)-3-[(R)-1-(t-butyldimethylsilyloxy)ethyl]-4-(3-benzyloxycarbonyl-2-hydroxypropyl)azetidin-2-one | [Si](C)(C)(C(C)(C)C)N1C([C@@H]([C@H]1CC(CC(=O)OCC1=CC=CC=C1)O)[C@@H](C)O[Si](C)(C)C(C)(C)C)=O | C28H49NO5Si2
